* C:\Users\felih\OneDrive\Uni\Mechatronics_Semester_Project_3\SDU-SPRO3-FILES\03_Electrical Management\LoadCellAmp.asc
V1 VS 0 3.3
R1 VS V+ 999
R2 V+ 0 999
R3 V+ 0 999
R4 VS V+ 999
R5 VS Ref 100k
R6 Ref 0 3125
RG N001 N003 656
XU1 Vin+ N001 VS 0 Vout OP747
XU2 Vin- N003 VS 0 N002 OP747
R8 Vout N001 100k
R9 N002 N001 25k
R10 N002 N003 25k
R11 Ref N003 100k
.op
.lib ADI.lib
.backanno
.end
